US06982348B2
2-bromo-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)acetamide
To a solution of (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine (2.0 g, 5.54 mmol) in ethyl acetate (50 ml) were added bromoacetyl bromide (723 ml, 8.30 mmol) and saturated aqueous sodium hydrogen carbonate (50 ml) and the mixture was stirred at room temperature for 3 hrs. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1). Recrystallization from ethyl acetate-hexane gave the title compound (2.0 g, 83%).

reactant | (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine | 5.54 mmol, 2.0 g | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O | C16H15F4NO
reactant | bromoacetyl bromide | 8.30 mmol, 723 ml | BrCC(=O)Br | C2H2Br2O
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-bromo-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)acetamide | 2.0 g, 83% | BrCC(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C18H16BrF4NO2
